US08048862B2
Preparation of 2-phenyl-4-hydroxy-7-methoxy-quinoline
To a solution of ethyl benzoylacetate (10.00 g, 52.0 mmol., 1 eq) and m-anisidine (7.05 g, 57.2 mmol., 1.1 eq) in toluene (85 mL) was added 4M HCl in dioxane (0.520 mL, 2.08 mmol., 0.04 eq) dropwise. The reaction mixture was refluxed for 15 hours while water was collected in a Dean-Stark apparatus. The reaction mixture was left to cool to ambient temperature and the solvent removed under vacuum. The residue was suspended in diphenyl ether (28 mL) and the mixture was heated for 2 h at 240° C. The reaction mixture was then left to cool to ambient temperature and dichloromethane (55 mL) was added, leading to the precipitation of a yellow solid. Stirring was continued at ambient temperature for a further 30 min and the solid collected by filtration, rinsing the cake with a small amount of dichloromethane. The solid was transferred to a 100 mL round bottom flask and stirred with dichloromethane (50 mL) for another 45 min at ambient temperature. After filtration and drying under high vacuum, 2.85 g (22%) of the title compound was isolated as a pale yellow solid. 1H NMR (250 MHz, DMSO-d6) δ ppm 11.54 (s, 1 H), 7.99 (d, J=8.91 Hz, 1 H), 7.73-7.90 (m, 2 H), 7.48-7.64 (m, 3 H), 7.20 (d, J=2.32 Hz, 1 H), 6.94 (dd, J=2.34, 8.97 Hz, 1 H), 6.26 (s, 1 H), 3.86 (s, 3 H). LC-MS: purity 98% (UV), tR 1.52 min, m/z [M+1]+ 252.10.

reactant | ethyl benzoylacetate | 52.0 mmol, 10.00 g, 1 eq | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | m-anisidine | 57.2 mmol, 7.05 g, 1.1 eq | COC1=CC(=CC=C1)N | C7H9NO
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 2.08 mmol, 0.520 mL, 0.04 eq | O1CCOCC1 | C4H8O2
solvent | toluene | 85 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-phenyl-4-hydroxy-7-methoxy-quinoline | 2.85 g, 22% | C1(=CC=CC=C1)C1=NC2=CC(=CC=C2C(=C1)O)OC | C16H13NO2
